US04876352
To a solution of 250 mg (1.0 mmole) of 5-(4-methylthiophenyl)-4-hydroxymethyl-oxazolidin-2-one in 30 ml of methylene chloride was added 0.21 ml (1.3 moles) of N-(2-chloro-1,1,2-trifluoroethyl)-diethylamine. The reaction mixture was heated in a teflon bomb at 110° C for 1.5 hours. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed twice with water, dried and concentrated. Chromatography on silica gel afforded 150 mg (0.62 mmole), 62% of 5-(4-methylthiophenyl)-4-fluoromethyl-oxazolidin-2-one.

reactant | 5-(4-methylthiophenyl)-4-hydroxymethyl-oxazolidin-2-one | 1.0 mmole, 250 mg | CSC1=CC=C(C=C1)C1C(NC(O1)=O)CO | C11H13NO3S
reactant | N-(2-chloro-1,1,2-trifluoroethyl)-diethylamine | 1.3 moles, 0.21 ml | ClC(C(F)(F)N(CC)CC)F | C6H11ClF3N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-methylthiophenyl)-4-fluoromethyl-oxazolidin-2-one | 62% | CSC1=CC=C(C=C1)C1C(NC(O1)=O)CF | C11H12FNO2S
